US06933290B2
(S)-2-{(S)-3-(3,4-Dimethoxy-phenyl)-2-[2-(3-phenoxy-phenyl)-acetylamino]-propionylamino}-3-methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-butyramide
The title compound is prepared from {(S)-2-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-propyl}-carbamic acid tert-butyl ester by reiteration of the 2-step (deprotection/coupling) procedure described in example 1 but using Boc-L-3,4-dimethoxyphenylalanine (Synthetech) and (3-Phenoxyphenyl)-acetic acid (Trans World Chemicals, Inc.; Rockville, Md., USA) as the partners in each coupling reaction (step B, example 1), respectively. The title compound is obtained as a foam; ES-MS: 782.3 [M+H]+; HPLC: single peak at tR=11.76 min (System 1); Rf=0.61 (CH2Cl2/MeOH, 90/10).

reactant | {(S)-2-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(C)C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)=O | C25H45BN2O5
reactant | Boc-L-3,4-dimethoxyphenylalanine | CC(C)(C)OC(=O)N[C@@H](CC1=CC(=C(C=C1)OC)OC)C(=O)O | C16H23NO6
reactant | (3-Phenoxyphenyl)-acetic acid | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O3
product | (S)-2-{(S)-3-(3,4-Dimethoxy-phenyl)-2-[2-(3-phenoxy-phenyl)-acetylamino]-propionylamino}-3-methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-butyramide | COC=1C=C(C=CC1OC)C[C@@H](C(=O)N[C@H](C(=O)N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)C(C)C)NC(CC3=CC(=CC=C3)OC3=CC=CC=C3)=O | C45H60BN3O8
